US07407955B2
Cyanimino-[N-(3-methyl-2-buten-1-yl)-N-(ethoxycarbonylmethyl)-amino]-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-methane
Prepared by reacting cyanimino-[N-(3-methyl-2-buten-1-yl)-N-(ethoxy-carbonylmethyl)-amino]-phenyloxy-methane with 3-(tert.-butyloxycarbonylamino)-piperidine in the presence of potassium carbonate in N,N-dimethylformamide at ambient temperature.

reactant | cyanimino-[N-(3-methyl-2-buten-1-yl)-N-(ethoxy-carbonylmethyl)-amino]-phenyloxy-methane | C(#N)N=C(OC1=CC=CC=C1)N(CC(=O)OCC)CC=C(C)C | C17H21N3O3
reactant | 3-(tert.-butyloxycarbonylamino)-piperidine | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Cyanimino-[N-(3-methyl-2-buten-1-yl)-N-(ethoxycarbonylmethyl)-amino]-[3-(tert.-butyloxycarbonylamino)-piperidin-1-yl]-methane | C(#N)N=C(N1CC(CCC1)NC(=O)OC(C)(C)C)N(CC(=O)OCC)CC=C(C)C | C21H35N5O4
